US06653308B2
Synthesis of 2,4-dimethyl-5-[2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-1H-pyrrole-3-carboxylic acid (2-hydroxy-3-morpholin-4-yl-propyl)-amide
5-(2-Oxo-1,2-dihydro-indol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (113 mg, 0.4 mmol) was condensed with 1-amino-3-morpholin-4-yl-propan-2-ol (74 mg, 0.48 mmol) to precipitate 2,4-dimethyl-5-[2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-1H-pyrrole-3-carboxylic acid (2-hydroxy-3-morpholin-4-yl-propyl)-amide (77 mg, 45.3%). 1H NMR (DMSO-d6) δ2.27 (m, 1H), 2.32 (m, 1H), 2.40 (m, 4H), 2.40, 2.42 (2×s, 6H, 2×CH3), 3.15 (s, 1H), 3.32 (m, 1H), 3.55 (m, 4H), 3.77 (m, 1H), 4.74 (d, J=4.8 Hz, 1H, OH), 6.86 (d, J=7.6 Hz, 1H), 6.96 (t, J=7.2 Hz, 1H), 7.10 (t, J=7.6 Hz, 1H), 7.49 (t, J=5.6 Hz, 1H), 7.61 (s, 1H), 7.77 (d, J=8.0 Hz, 1H) (aromatic and vinyl), 10.88 (s, 1H, CONH), 13.62 (s, 1H, NH). LC-MS (m/z) 425.4 (M+1).

reactant | 5-(2-Oxo-1,2-dihydro-indol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.4 mmol, 113 mg | O=C1NC2=CC=CC=C2C1=CC1=C(C(=C(N1)C)C(=O)O)C | C16H14N2O3
reactant | 1-amino-3-morpholin-4-yl-propan-2-ol | 0.48 mmol, 74 mg | NCC(CN1CCOCC1)O | C7H16N2O2
product | 2,4-dimethyl-5-[2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-1H-pyrrole-3-carboxylic acid (2-hydroxy-3-morpholin-4-yl-propyl)-amide | OC(CNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=CC=C12)=O)C)CN1CCOCC1 | C23H28N4O4
